US07696200B2
65% aq. nitric acid solution (2.7 mL, 60 mmol) and fuming nitric acid (2.5 mL, 60 mmol) were added at −10° C. to a solution of 4-hydroxy-3-methyl-benzoic acid methyl ester (4.97 g, 29.9 mmol) in diethyl ether (60 mL). The ice bath was removed and the reaction mixture was stirred at room temperature for 16 h, then partitioned between water and ethyl acetate. The organic layer was washed with brine, dried (MgSO4), and evaporated to afford 4-hydroxy-3-methyl-5-nitro-benzoic acid (6.27 g, 99%). Yellow solid, MS (ISP)=210.1 (M−H)−.

reactant | nitric acid | 60 mmol, 2.7 mL | [N+](=O)(O)[O-] | HNO3
reactant | nitric acid | 60 mmol, 2.5 mL | [N+](=O)(O)[O-] | HNO3
reactant | 4-hydroxy-3-methyl-benzoic acid methyl ester | 29.9 mmol, 4.97 g | COC(C1=CC(=C(C=C1)O)C)=O | C9H10O3
solvent | diethyl ether | 60 mL | C(C)OCC | C4H10O
product | 4-hydroxy-3-methyl-5-nitro-benzoic acid | 6.27 g, 99% | OC1=C(C=C(C(=O)O)C=C1[N+](=O)[O-])C | C8H7NO5
